*$
* INAx126
*****************************************************************************
* (C) Copyright 2023 Texas Instruments Incorporated. All rights reserved.     
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.      
** TI and its licensors and suppliers make no warranties, either expressed   
** or implied, with respect to this model, including the warranties of       
** merchantability or fitness for a particular purpose. The model is        
** provided solely on an "as is" basis. The entire risk as to its quality   
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INAx126
* Date: 27JAN2023
* Model Type: ALL IN ONE
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS062C - SEPTEMBER 2000 - REVISED JANUARY 2022
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* 1. Updated PSpice symbol
* 2. Updated Model Name from INA126 to INAx126
* 3. Updated Pin order
*
* Final 1.0 : 
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* 1. INAx126 model is available in single core(INA126) and dual core(INA2126)
*****************************************************************************
* CONNECTIONS:  NON-INVERTING INPUT
*               | INVERTING INPUT
*               | | POSITIVE POWER SUPPLY
*               | | | NEGATIVE POWER SUPPLY
*               | | | | OUTPUT
*               | | | | | REFERENCE
*               | | | | | | GAIN SENSE 1
*               | | | | | | | GAIN SENSE 2
*               | | | | | | | |
.SUBCKT INAx126 3 2 7 4 6 5 1 8
****************************************************************************
* Components
X1 2 1 7 4 222 5 OPAMP1_INAx126
X2 3 8 7 4 6 222 OPAMP2_INAx126
.ENDS INAx126 
****************************************************************************
.SUBCKT OPAMP1_INAx126 1 2 3 4 5 22
****************************************************************************
* Models
.MODEL DX D (IS=800.0E-18)
.MODEL QX PNP (IS=800.0E-18 BF=150)
****************************************************************************
* Components
C1 11 12 2.9E-12
C2 6 7 12.00E-12
DC 5 53 DX
DE 54 5 DX
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 42.44E6 -42E6 42E6 42E6 -42E6
GA 6 0 11 12 94.25E-6
GCM 0 6 10 99 942.5E-12
HLIM 90 0 VLIM 1K
IEE 3 10 DC 6.040E-6
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 9 100.0E3
RC1 4 11 10.61E3
RC2 4 12 10.61E3
RE1 13 10 1.976E3
RE2 14 10 1.976E3
REE 10 99 33.11E6
RFB1 2 22 40K
RFB2 2 5 10K
RO1 8 5 50
RO2 7 99 25
RP 3 4 379.8E3
VB 9 0 DC 0
VC 3 53 DC 1
VE 54 4 DC 1
VLIM 7 8 DC 0
VLN 0 92 DC 2
VLP 91 0 DC 2
.ENDS OPAMP1_INAx126
****************************************************************************
.SUBCKT OPAMP2_INAx126 1 2 3 4 5 22
****************************************************************************
* Models
.MODEL DX D (IS=800.0E-18)
.MODEL QX PNP (IS=800.0E-18 BF=150)
****************************************************************************
* Components
C1 11 12 2.9E-12
C2 6 7 12.00E-12
DC 5 53 DX
DE 54 5 DX
DLN 92 90 DX
DLP 90 91 DX
DP 4 3 DX
EGND 99 0 POLY(2) (3,0) (4,0) 0 .5 .5
FB 7 99 POLY(5) VB VC VE VLP VLN 0 42.44E6 -42E6 42E6 42E6 -42E6
GA 6 0 11 12 94.25E-6
GCM 0 6 10 99 942.5E-12
HLIM 90 0 VLIM 1K
IEE 3 10 DC 6.040E-6
Q1 11 2 13 QX
Q2 12 1 14 QX
R2 6 9 100.0E3
RC1 4 11 10.61E3
RC2 4 12 10.61E3
RE1 13 10 1.976E3
RE2 14 10 1.976E3
REE 10 99 33.11E6
RFB3 2 22 10K
RFB4 2 5 40K
RO1 8 5 50
RO2 7 99 25
RP 3 4 379.8E3
VB 9 0 DC 0
VC 3 53 DC 1
VE 54 4 DC 1
VLIM 7 8 DC 0
VLN 0 92 DC 2
VLP 91 0 DC 2
.ENDS OPAMP2_INAx126
*
