* ==========================================================
* LOAD CELL -> INA126 -> CLAMPS -> MCP6024 -> STM32 ADC
* ==========================================================

.title Load Cell Analogue Front End

* ----------------------------------------------------------
* Manufacturer models
* ----------------------------------------------------------
.include INAx126.lib
.include MCP6021.lib


* ==========================================================
* PARAMETERS
* ==========================================================

.param RGVAL = 100

* Approximate source resistance of each load-cell signal lead.
* Change this later if we know the actual bridge resistance.
.param RLOADCELL = 175


* ==========================================================
* POWER SUPPLIES
* ==========================================================

* 5 V supply for load cell / INA126
V5V V5 0 DC 5

* INA126 local decoupling capacitor
CINA_DEC V5 0 100n


* 3.3 V supply for MCP6024 and upper clamp
V3V3 V3V3 0 DC 3.3

* MCP6024 local decoupling capacitor
CMCP_DEC V3V3 0 100n


* ==========================================================
* LOAD CELL MODEL
* ==========================================================
*
* The real bridge outputs sit around a common-mode voltage.
* With a 5 V excited Wheatstone bridge, ~2.5 V common mode
* is a useful starting approximation.
*
* V(SIG) represents the DIFFERENTIAL bridge signal.
*
* GREEN = + input of INA126
* WHITE = - input of INA126
*
* Therefore:
*
*   Vgreen - Vwhite = V(SIG)
*
* ==========================================================

* Example load-cell waveform:
*
* 0-10 ms      : zero load
* 10-20 ms     : rise to 1 mV
* 20-60 ms     : hold 1 mV
* 60-70 ms     : rise to 2 mV
* 70-110 ms    : hold 2 mV
* 110-125 ms   : fall to 0.5 mV
* 125-160 ms   : hold
* 160-175 ms   : return to zero

VSIG SIG 0 PWL(
+ 0       0
+ 10m     0
+ 20m     1m
+ 60m     1m
+ 70m     2m
+ 110m    2m
+ 125m    0.5m
+ 160m    0.5m
+ 175m    0
+ 200m    0
+ )


* Generate the two bridge output voltages around 2.5 V

BGREEN_SRC GREEN_SRC 0 V = 2.5 + 0.5*V(SIG)

BWHITE_SRC WHITE_SRC 0 V = 2.5 - 0.5*V(SIG)


* Approximate load-cell output resistance

RGREEN GREEN_SRC GREEN {RLOADCELL}

RWHITE WHITE_SRC WHITE {RLOADCELL}


* ==========================================================
* INA126 INSTRUMENTATION AMPLIFIER
* ==========================================================
*
* TI model pin order:
*
* Xdevice
*   NONINV
*   INV
*   V+
*   V-
*   OUT
*   REF
*   RG1
*   RG2
*   INAx126
*
* Your wiring:
*
* green -> VIN+
* white -> VIN-
* V+    -> 5 V
* V-    -> GND
* REF   -> GND
*

XINA
+ GREEN
+ WHITE
+ V5
+ 0
+ INA_OUT
+ 0
+ INA_RG1
+ INA_RG2
+ INAx126


* Gain-setting resistor

RGAIN INA_RG1 INA_RG2 {RGVAL}


* ==========================================================
* INA126 OUTPUT PROTECTION
* ==========================================================

* Your 100-ohm series resistor

RSER INA_OUT CLAMP_NODE 100


* ----------------------------------------------------------
* Approximate 1N5819WS Schottky model
* ----------------------------------------------------------
*
* Replace this later with the manufacturer's exact
* 1N5819WS model if desired.
*

.model D5819 D(
+ IS=20u
+ N=1.08
+ RS=0.05
+ CJO=110p
+ M=0.33
+ BV=40
+ IBV=1m
+ )


* Upper clamp:
* conducts if CLAMP_NODE rises above 3.3 V + Vf

DUPPER CLAMP_NODE V3V3 D5819


* Lower clamp:
* conducts if CLAMP_NODE goes below approximately -Vf

DLOWER 0 CLAMP_NODE D5819


* ==========================================================
* MCP6024 CHANNEL A
* ==========================================================
*
* Microchip subcircuit pin order:
*
*   1 = non-inverting input
*   2 = inverting input
*   3 = positive supply
*   4 = negative supply
*   5 = output
*
* Unity-gain follower:
*
*      +IN = CLAMP_NODE
*      -IN = output
*

XMCPA
+ CLAMP_NODE
+ ADC
+ V3V3
+ 0
+ ADC
+ MCP6021


* ==========================================================
* STM32 ADC INPUT
* ==========================================================
*
* For now the STM32 input is treated as a very high
* impedance load.
*
* This does NOT yet model the ADC sample-and-hold capacitor.
*

RADC ADC 0 1G


* ==========================================================
* TRANSIENT ANALYSIS
* ==========================================================

.tran 10u 200m


* Save important nodes

.save
+ V(SIG)
+ V(GREEN)
+ V(WHITE)
+ V(INA_OUT)
+ V(CLAMP_NODE)
+ V(ADC)


.control

run

* Plot original differential load-cell signal
plot V(GREEN)-V(WHITE)

* Plot amplified signal path
plot V(INA_OUT) V(CLAMP_NODE) V(ADC)

.endc


.end